US09238639B2
B) Methyl(4-cyclopropyl-6-hydroxy-1-benzothiophen-3-yl)acetate
To a mixture of methyl(4-cyclopropyl-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate (372 mg) and THF (2 mL) was added TBAF (1M in THF, 1.333 mL) at room temperature. The mixture was stirred at room temperature for 1 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (201 mg).

reactant | methyl(4-cyclopropyl-6-((triisopropylsilyl)oxy)-1-benzothiophen-3-yl)acetate | 372 mg | COC(CC1=CSC2=C1C(=CC(=C2)O[Si](C(C)C)(C(C)C)C(C)C)C2CC2)=O | C23H34O3SSi
reactant | THF | 2 mL | C1CCOC1 | C4H8O
reactant | TBAF | 1M, 1.333 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | water | O | H2O
product | Methyl(4-cyclopropyl-6-hydroxy-1-benzothiophen-3-yl)acetate | 201 mg | COC(CC1=CSC2=C1C(=CC(=C2)O)C2CC2)=O | C14H14O3S
